US07582625B2
(R)-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-(4-{1-[2-(2-methoxy-ethoxy)-ethoxycarbonylmethyl]-piperidin-4-yl}-piperazin-1-yl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
Prepared analogously to Example 4d from 70 mg (0.10 mmol) of (R)-2-[4-(1-carboxymethyl-piperidin-4-yl)-piperazin-1-yl]-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate and 13 μL (0.11 mmol) 2-(2-methoxy-ethoxy)-ethanol. The reaction solution was purified by HPLC without any further working up; the fractions containing the product were combined and lyophilised.

reactant | (R)-2-[4-(1-carboxymethyl-piperidin-4-yl)-piperazin-1-yl]-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.10 mmol, 70 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCN(CC1)C1CCN(CC1)CC(=O)O)CC1=CC(=C(C(=C1)C)O)C)C=CC=C2 | C37H50N6O7
reactant | 2-(2-methoxy-ethoxy)-ethanol | 0.11 mmol, 13 μL | COCCOCCO | C5H12O3
product | (R)-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-(4-{1-[2-(2-methoxy-ethoxy)-ethoxycarbonylmethyl]-piperidin-4-yl}-piperazin-1-yl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCN(CC1)C1CCN(CC1)CC(=O)OCCOCCOC)CC1=CC(=C(C(=C1)C)O)C)C=CC=C2 | C42H60N6O9
